US09062092B2
Compound 49b. 2-Vinyl-tetrahydro-pyran-2-carboxylic acid methyl ester
A solution of 2-(1-trifluoromethanesulfonyloxy-ethyl)-tetrahydro-pyran-2-carboxylic acid methyl ester (2.12 g, 3.3 mmol) in dichloromethane (5 mL) was stirred at room temperature under nitrogen. 1,8-Diazabicycloundec-7-ene (2.0 g, 2 mL, 13.2 mmol) was added and the reaction mixture was stirred at room temperature for 18 h. The reaction mixture was cooled to 0° C. and acidified to pH 2 with ice cold hydrochloric acid (2 M). The mixture was extracted with dichloromethane. The organic extracts were combined and washed with brine. The organic solution was filtered through a hydrophobic frit and the filtrate was evaporated. The residue was purified by silica gel chromatography using a gradient of pentane/diethyl ether 10:1 to 5:1 to afford the title compound (466 mg, 75% over two steps) as an oil. 1H NMR (300 MHz, CDCl3) δ 1.55-1.80 (m, 5H), 2.21-2.29 (m, 1H), 2.68-2.77 (m, 1H), 3.79 (s, 3H), 3.91-3.98 (m, 1H), 5.26 (dd, J=10.7, 0.9 Hz, 1H), 5.41 (dd, J=17.4, 1.1 Hz, 1H), 5.87 (dd, J=17.4, 10.7 Hz, 1H). LCMS (m/z) 193.2 [M+H], Tr=2.01 min.

reactant | 2-(1-trifluoromethanesulfonyloxy-ethyl)-tetrahydro-pyran-2-carboxylic acid methyl ester | 3.3 mmol, 2.12 g | COC(=O)C1(OCCCC1)C(C)OS(=O)(=O)C(F)(F)F | C10H15F3O6S
reactant | 1,8-Diazabicycloundec-7-ene | 13.2 mmol, 2 mL, 2.0 g | N1(CCCCCC=NCCC1)C1CCCCCCCCCC1 | C20H38N2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 2-Vinyl-tetrahydro-pyran-2-carboxylic acid methyl ester | 466 mg, 75% | COC(=O)C1(OCCCC1)C=C | C9H14O3
